US04008068
Preparation of 5-Hexyl-1,3,4-thiadiazol-2-yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (100 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer. A slurry of 5-hexyl-2-amino-1,3,4-thiadiazole (40 grams) in ethyl acetate (300 ml) is added to the reaction vessel, and the resulting mixture is stirred for a period of about 16 hours, resulting in the formation of a precipitate. The reaction mixture is then purged with nitrogen gas to remove unreacted phosgene. The purged mixture is then filtered to recover the precipitate. The precipitate is then recrystallized to yield the desired product 5-hexyl-1,3,4-thiadiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 5-hexyl-2-amino-1,3,4-thiadiazole | 40 grams | C(CCCCC)C1=NN=C(S1)N | C8H15N3S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 5-hexyl-1,3,4-thiadiazol-2-yl isocyanate | C(CCCCC)C1=NN=C(S1)N=C=O | C9H13N3OS
